data/mechanism_extracts/Tetrahedron/10.1016_j.tet.2017.10.047.json
{"doi": "10.1016_j.tet.2017.10.047", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electrochemical synthesis of vinyl sulfones from sulfonyl hydrazides and styrenes using KI as redox mediator in an undivided cell", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of iodide to I2 (and to p-toluenesulfonyl iodide A); the sulfonyl iodide A is reduced at the cathode to sulfinate anion B which is then re-oxidized at the anode to sulfonyl radical C; benzyl radical D is further oxidized at the anode to benzyl cation E. H2O is reduced at the cathode to H2 and OH-.", "key_intermediates": [{"name": "p-toluenesulfonyl iodide (A)", "smiles": "Cc1ccc(cc1)S(=O)(=O)I", "role": "reactive"}, {"name": "p-toluenesulfinate anion (B)", "smiles": "Cc1ccc(cc1)S(=O)[O-]", "role": "transient"}, {"name": "p-toluenesulfonyl radical (C)", "smiles": "Cc1ccc(cc1)S(=O)(=O)[CH2]", "role": "reactive"}, {"name": "benzyl C-centered radical adduct (D)", "smiles": "[CH](c1ccccc1)CS(=O)(=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "benzyl cation (E)", "smiles": "[CH+](c1ccccc1)CS(=O)(=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "β-iodosulfone (F)", "smiles": "ICC(c1ccccc1)CS(=O)(=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "β-hydroxysulfone (4)", "smiles": "OC(c1ccccc1)CS(=O)(=O)c1ccc(C)cc1", "role": "off_pathway"}, {"name": "molecular iodine I2", "smiles": "II", "role": "transient"}], "electron_flow": "At the anode, iodide is oxidized to I2 which converts TsNHNH2 into sulfonyl iodide A; A is reduced at the cathode via ECE to sulfinate B which is then anodically oxidized to sulfonyl radical C. C adds to styrene to give benzyl radical D, which is anodically oxidized to cation E; loss of H+ (or HI via iodosulfone F) yields the vinyl sulfone.", "rate_determining_step": null, "probe_reagents": [{"name": "p-toluenesulfonyl iodide A (isolated/prepared)", "smiles": "Cc1ccc(cc1)S(=O)(=O)I", "purpose": "intermediate_trap", "observation": "Independently prepared; its CV shows irreversible cathodic reduction (~-0.75 V vs SCE) consistent with ECE reduction to sulfinate"}, {"name": "sodium p-toluenesulfinate (TsNa)", "smiles": "Cc1ccc(cc1)S(=O)[O-].[Na+]", "purpose": "intermediate_trap", "observation": "CV shows irreversible oxidation at +0.78 V; current matches 1e- (vs ferrocene) confirming single-electron oxidation to sulfonyl radical C"}, {"name": "ferrocene", "smiles": "[Fe+2].[cH-]1cccc1.[cH-]1cccc1", "purpose": "redox_probe", "observation": "Used as 1e- reference to calibrate the electron count of the sulfinate oxidation"}, {"name": "β-hydroxysulfone 4ao", "smiles": "OC(c1ccccc1)(C)CS(=O)(=O)c1ccc(C)cc1", "purpose": "intermediate_trap", "observation": "Electrolysis under reaction conditions did NOT give vinyl sulfone 3ao, ruling out dehydroxylation pathway"}, {"name": "p-methoxystyrene / α-methylstyrene", "smiles": "COc1ccc(C=C)cc1", "purpose": "intermediate_trap", "observation": "Yielded β-hydroxysulfones 4, supporting intermediacy of stabilized benzyl cation E"}], "evidence_types_used": ["cyclic_voltammetry", "stoichiometric_intermediate", "isolation_of_intermediate", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Two pathways from cation E are proposed: (i) direct deprotonation to vinyl sulfone, or (ii) iodide trapping to β-iodosulfone F followed by HI elimination. With electron-rich styrenes, E is trapped by water to give β-hydroxysulfones (off-pathway, control experiment shows these do not dehydrate to vinyl sulfones). Hypoiodite/iodate species formed from I2 + cathodically generated OH- may also participate in oxidizing the hydrazide."}
